US08357693B2
To 3-(4-oxo-3,4-dihydroquinazolin-2-yl)phenyl acetate was added thionyl chloride (100 mL) and DMF (2 mL) and the reaction was heated to reflux for 4 h. The flask was allowed to cool to RT and then concentrated in vacuo. The crude product was azeotroped with toluene (2×50 mL), taken up in CH2Cl2 (300 mL) and washed with saturated NaHCO3 (3×50 mL), water (1×50 mL) and brine (1×50 mL), dried with MgSO4 and concentrated in vacuo to give 3-(4-chloroquinazolin-2-yl)phenyl acetate. (9.77 g, mmol, 100%).

reactant | 3-(4-oxo-3,4-dihydroquinazolin-2-yl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C16H12N2O3
reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(4-chloroquinazolin-2-yl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C16H11ClN2O2
